US08686002B2
2-[(2-Aminoquinolin-3-yl)methyl]phenol
3-(2-Methoxybenzyl)quinolin-2-amine (53 mg, 0.2 mmol) was mixed with boron tribromide solution in dichloromethane (1M, 0.4 mL, 0.4 mmol) in dichloromethane [sic; duplication] at −78° C. After thawing, the mixture was stirred for 12 hours at room temperature. The batch was mixed with water, extracted with dichloromethane and the combined organic phases were washed with sodium hydroxide solution (1M), water and saturated saline solution until neutral. After drying (sodium sulfate), the crude product was stirred with methyl tert-butyl ether and recrystallized from methanol/water (yield: 28 mg, 56%).

reactant | 3-(2-Methoxybenzyl)quinolin-2-amine | 0.2 mmol, 53 mg | COC1=C(CC=2C(=NC3=CC=CC=C3C2)N)C=CC=C1 | C17H16N2O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 0.4 mmol, 1M, 0.4 mL | ClCCl | CH2Cl2
product | 2-[(2-Aminoquinolin-3-yl)methyl]phenol | NC1=NC2=CC=CC=C2C=C1CC1=C(C=CC=C1)O | C16H14N2O
